US08293917B2
5-Methyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-ethyl]-amide (70 mg, 0.24 mmol), copper(I) iodide (10 mg, 0.05 mmol), 5-chloro-2-iodopyridine (75 mg, 0.31 mmol) and potassium carbonate (75 mg, 0.54 mmol) are added to a reaction vial with a septum top which is then evacuated and filled with argon for 3 cycles. DMF (2 mL, degassed) and racemic trans-N,N′-dimethylcyclohexane-1,2-diamine (15 μL, 0.10 mmol) are added and the reaction is heated at 120° C. for 17 hours. The resultant mixture is cooled to room temperature, diluted with saturated aqueous ammonium chloride (15 mL) and extracted with EtOAc (3×20 mL). The combined organic layers is washed with saturated aqueous sodium bicarbonate (15 mL) followed by brine (15 mL), dried over sodium sulfate, filtered and concentrated in vacuo to provide a crude solid. Recrystallization from ether/hexanes provides 1-(5-chloro-pyridin-2-yl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-ethyl]-amide as a colorless solid (38 mg, 40%). (For references, see Buchwald, et al., J. Org. Chem. 2004, 69, 5578; Buchwald, et al., J. Am. Chem. Soc. 2002, 124, 11684).

reactant | 5-Methyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-ethyl]-amide | 0.24 mmol, 70 mg | FC(C=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=NNC1C)(F)F | C14H14F3N3O
reactant | 5-chloro-2-iodopyridine | 0.31 mmol, 75 mg | ClC=1C=CC(=NC1)I | C5H3ClIN
reactant | potassium carbonate | 0.54 mmol, 75 mg | C([O-])([O-])=O.[K+].[K+]
reactant | racemic trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.10 mmol, 15 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | ammonium chloride | 15 mL | [Cl-].[NH4+]
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(5-chloro-pyridin-2-yl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-ethyl]-amide | 38 mg, 40% | FC(C=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=NN(C1C)C1=NC=C(C=C1)Cl)(F)F | C19H16ClF3N4O
